US08022062B2
To a stirred solution of neopentyl alcohol (105 mg, 1.19 mm ol) in THF (5 mL) at ambient temperature add sodium hydride (31 mg, 95%, 1.19 mmol) and continue stirring for 3 h at ambient temperature. Add a solution of 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridazin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (315 mg, 0.59 mmol) in THF (1 mL) and continue stirring overnight at ambient temperature and then at 60° C. for 1 h. Dilute with water, extract the reaction mixture three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (6:1) to give 3-tert-butoxycarbonyl-7-chloro-6-[6-(2,2-dimethyl-propoxy)-pyridazin-3-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a clear oil (81 mg, 28%). MS (APCI+) m/z: 492 (M+H)+, 392 (M+H−Boc)+. Use a method similar to the General Procedure 1-4 to give the title compound as a white powder. MS (APCI+) m/z: 392 (M+H)+, m/z: 322 M+H−C5H11)+.

reactant | neopentyl alcohol | 105 mg | C(C(C)(C)C)O | C5H12O
reactant | sodium hydride | 1.19 mmol, 31 mg | [H-].[Na+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridazin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.59 mmol, 315 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2N=NC(=CC2)Cl | C20H23Cl2N3O2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-tert-butoxycarbonyl-7-chloro-6-[6-(2,2-dimethyl-propoxy)-pyridazin-3-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 81 mg, 28% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2N=NC(=CC2)OCC(C)(C)C | C25H34ClN3O3S
